US07951818B2
D.3: 4-Amino-N-(4-dimethylamino-benzyl)-benzenesulfonamide
To a solution of N-(4-dimethylamino-benzyl)-4-nitro-benzenesulfonamide (472 mg, 1.409 mmol), prepared as described in D.1, in MeOH (10 ml) under nitrogen was added Pd/C 10% (74.92 mg, 0.007 mmol). The system was purged with hydrogen and let stirred overnight under an atmosphere of hydrogen. After filtration through a celite plug, the solvent is removed under reduced pressure to yield the title compound, which is used as such for the next step.

reactant | N-(4-dimethylamino-benzyl)-4-nitro-benzenesulfonamide | 1.409 mmol, 472 mg | CN(C1=CC=C(CNS(=O)(=O)C2=CC=C(C=C2)[N+](=O)[O-])C=C1)C | C15H17N3O4S
solvent | MeOH | 10 ml | CO | CH4O
catalyst | Pd/C | 0.007 mmol, 74.92 mg | [Pd] | Pd
product | 4-Amino-N-(4-dimethylamino-benzyl)-benzenesulfonamide | NC1=CC=C(C=C1)S(=O)(=O)NCC1=CC=C(C=C1)N(C)C | C15H19N3O2S
